US05824652
trans-Ethyl-2,4-dimethyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylate
To a solution of trans-ethyl-2-methyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylate (483 mg, 2 mmoles) in anhydrous toluene (10 ml), NaH (96 mg, 4 mmoles) and methyl iodide (710 mg, 5 mmoles) were added and the mixture was heated for 30 minutes at reflux temperature. After the completion of the reaction, the toluene solution was washed with 1N HCl (10 ml), 1N NaOH (10 ml) and a saturated NaCl solution (10 ml). The solution was dried over MgSO4 and the solvent was evaporated. Thus there were obtained 319 mg (62%) of a yellow product, which was purified by column chromatography (silica gel; chloroform/methanol=9:1). Thus there were obtained 246 mg (48%) of the title compound in the form of a viscous oil.

reactant | trans-ethyl-2-methyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylate | 2 mmoles, 483 mg | C(C)OC(=O)C1(O[C@H]2[C@H](NC1=O)CCCC2)C | C12H19NO4
reactant | NaH | 4 mmoles, 96 mg | [H-].[Na+]
reactant | methyl iodide | 5 mmoles, 710 mg | CI | CH3I
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | trans-Ethyl-2,4-dimethyl-3-oxo-octahydro-2H-1,4-benzoxazine-2-carboxylate | 319 mg, 62% | C(C)OC(=O)C1(O[C@H]2[C@H](N(C1=O)C)CCCC2)C | C13H21NO4
